US05387685
α-(3,4-Dimethoxyphenyl)-3,4-dihydro-7-hydroxy-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinoline-heptanenitrile
To a solution of 1.0 g of α-(3,4-dimethoxyphenyl)-7-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3,4-dihydro-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)isoquinolineheptanenitrile in 30 mL of tetrahydrofuran is added 3.02 mL of a 1.0M solution of tetrabutylammonium fluoride in tetrahydrofuran. This is sealed and stirred for 5 hours. The reaction mixture is evaporated and the residue taken up in ethyl acetate. The solution is washed three times with water, and the organic phase is separated and evaporated. The gum remaining is redissolved in chloroform and the solution evaporated in Vacuo at 66° C. This process is repeated twice more affording 0.83 g of the desired product as a brown gum.

reactant | α-(3,4-dimethoxyphenyl)-7-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3,4-dihydro-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)isoquinolineheptanenitrile | 1.0 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2CC1)OC)O[Si](C)(C)C(C)(C)C)SC1=CC=C(C=C1)C | C38H52N2O4SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | α-(3,4-Dimethoxyphenyl)-3,4-dihydro-7-hydroxy-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinoline-heptanenitrile | 0.83 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2CC1)OC)O)SC1=CC=C(C=C1)C | C32H38N2O4S
